US08048909B2
2-({4-[(Methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoic acid hydrochloride
2-[(4-{[(tert-Butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid (256 mg) was dissolved in ethyl acetate (1 mL), and 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added at room temperature. After stirring at the same temperature for 3 hr, the reaction mixture was homogenized with methanol, activated carbon was added and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate. The obtained crystal was recrystallized from a mixed solvent of ethyl acetate and ethanol to give the title compound as colorless crystals (yield 110 mg, 50%).

reactant | 2-[(4-{[(tert-Butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid | 256 mg | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1 | C24H26N2O6S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 1 mL | C(C)(=O)OCC.Cl
reactant | methanol | CO | CH4O
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 2-({4-[(Methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoic acid hydrochloride | yield 110 mg, 50% | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H18N2O4S.ClH/c1-20-12-14-11-17(15-7-3-2-4-8-15)21(13-14)26(24,25)18-10-6-5-9-16(18)19(22)23;/h2-11,13,20H,12H2,1H3,(H,22,23);1H
